US04178452
A. Ethyl 2,3-Dioxo-4-piperidinecarboxylate
A few crystals of iodine and a small amount of Hg2Cl2 were introduced into a mixture of benzene (2 liters) and ethanol (280 ml). Sodium methoxide (108 g, 2.0 moles) was added with stirring. A mixture of 2-pyrrolidone (17.2 g, 2.0 moles) and diethyl oxalate (292 g, 2.0 moles) was introduced in large increments. Slight exothermicity was observed. The reaction mixture was refluxed for 24 hours. It was acidified with 320 ml of 1:1 HCl. The hot benzene was decanted, the salt and water were mixed with fresh boiling benzene, and the benzene was decanted. This extraction with boiling benzene was done three times. The extracts were combined and filtered by gravity. The filtrate was concentrated under reduced pressure to approximately 1.5 liters. This was concentrated on a steam bath to approximately 600 ml. On cooling overnight, a solid (151 g, m.p. 148°-151°) was obtained. Yield: 40.7%.

reactant | iodine | II | I2
reactant | Sodium methoxide | 2.0 moles, 108 g | C[O-].[Na+]
reactant | 2-pyrrolidone | 2.0 moles, 17.2 g | N1C(CCC1)=O | C4H7NO
reactant | diethyl oxalate | 2.0 moles, 292 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 320 ml | Cl | ClH
solvent | ethanol | 280 ml | C(C)O | C2H6O
solvent | benzene | 2 liters | C1=CC=CC=C1 | C6H6
product | Ethyl 2,3-Dioxo-4-piperidinecarboxylate | 151 g, Yield: 40.7% | O=C1NCCC(C1=O)C(=O)OCC | C8H11NO4
